US04668703
To ethyl 4-amino-5,6-heptadienoate hydrochloride in chloroform containing one equivalent of NEt3, was added 1.0 equivalent of di-tert-butyl-dicarbonate at 0° C. The reaction mixture was then warmed to room temperature and left overnight. Dilution with chloroform was followed by washing with water, brine, drying over anh. MgSO4, and concentration in vacuo to give ethyl-4-N-tert-butoxycarbonyl-5,6-heptadienoic as an oil. This was added in dry THF to an LDA solution (2.2 equivalents) at -70° C., dropwise, and under argon. One hour after the addition, 1.0 equivalents of phenylselenium bromide was added according to the method of Sharpless et al, JACS, 6137, 1973. After 1 hour the reaction mixture was warmed to 0° C. and quenched with 10% acetic acid and extracted repeatedly with CH2Cl2. The organic fractions were combined, washed with 5% NaHCO3, brine, dried over anh. MgSO4 and concentrated to an oil. Partial purification by chromatography on SiO2 gave three allene products; starting material, ethyl-4 -N-tert-butoxycarbonyl-2-phenylselenyl-5,6-heptadienoate, and N-tert-butoxycarbonyl-5-(1,2-propadien-1-yl)-3-phenylselenyl-2-pyrrolidone. The allene samples were dissolved in methanol and treated with 3.0 equivalents of NaIO4 at room temperature overnight. The reaction mixture was then concentrated, diluted with water and extracted repeatedly with CH2Cl2 to give after drying over anh. MgSO4 and concentration, an oil consisting of cis- and trans-ethyl-4-N-tert-butoxycarbonyl-2,5,6-trienoate. This was partially purified on SiO2. The allene fractions were combined and treated with a 1:1 solution of THF: 20% HCl at reflux for two days. Water was added to the reaction mixture and the latter extracted with ether. Ion-exchange chromatography (Ag 50 W×8), eluting with 20% pyridine water gave a residue which on purification by HPLC (RP-18) gave trans-4-amino-2,5,6-heptatrienoic acid. 'H NMR (δD2O): 4.5 (m, 1H, HCN), 5.1-5.3 (m, 2H, H2C=C=C), 5.35-5.65 (m, 1H, CH=C=C), 6.1 (dd, 1H, J=0.65, 15.8 Hz, HC=C), 6.5 (dd, 1H, J=6.3, 15.8 Hz, HC=C); mass spectrum, m/e 100; MH+ 140, (MH-H2O 122), (MH±NH2 124), 100.

reactant | N-tert-butoxycarbonyl-5-(1,2-propadien-1-yl)-3-phenylselenyl-2-pyrrolidone | C(C)(C)(C)OC(=O)N1C(C(CC1C=C=C)(C1=CC=CC=C1)[SeH])=O | C18H21NO3Se
reactant | allene | C=C=C | C3H4
reactant | methanol | CO | CH4O
product | trans-4-amino-2,5,6-heptatrienoic acid | NC(/C=C/C(=O)O)C=C=C | C7H9NO2
